US04618669
S-(2-phenylcarbamoyl-phenylselenyl)-D-penicillamine
5 g (18,2 mmol) 2-phenyl-1,2-benzoisoselenazole-3-(2H)-one are dissolved in 250 ml methanol and 30 ml dimethylformamide. A solution of 2,71 g (18,2 mmol) D-penicillamine in 100 ml water is added while stirring. To this clear solution, so much water is added until a slight haze is to be seen. After stirring for 18 hours, the precipitate is filtered and recristallized from ethanol/water (3:2).

reactant | 2-phenyl-1,2-benzoisoselenazole-3-(2H)-one | 18,2 mmol, 5 g | C1(=CC=CC=C1)N1[Se]C2=C(C1=O)C=CC=C2 | C13H9NOSe
reactant | D-penicillamine | 18,2 mmol, 2,71 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
solvent | methanol | 250 ml | CO | CH4O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | S-(2-phenylcarbamoyl-phenylselenyl)-D-penicillamine | C1(=CC=CC=C1)NC(=O)C1=C(C=CC=C1)[Se]SC([C@@H](N)C(=O)O)(C)C | C18H20N2O3SSe
